US09029536B2
A) 1-Ethyl-3-(6-methoxypyridin-3-yl)-1H-pyrazolo[4,3-b]pyridine
To a mixture of 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine (120 mg), 6-methoxypyridin-3-ylboronic acid (122 mg), Pd(OAc)2 (11.92 mg) and Xphos (50.6 mg) in THF (3 mL) was added a solution of Cs2CO3 (346 mg) in H2O (1 mL). The mixture was exposed to microwave irradiation at 100° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (120 mg).

reactant | 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 120 mg | BrC1=NN(C=2C1=NC=CC2)CC | C8H8BrN3
reactant | 6-methoxypyridin-3-ylboronic acid | 122 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | Xphos | 50.6 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Cs2CO3 | 346 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(OAc)2 | 11.92 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-Ethyl-3-(6-methoxypyridin-3-yl)-1H-pyrazolo[4,3-b]pyridine | 120 mg | C(C)N1N=C(C2=NC=CC=C21)C=2C=NC(=CC2)OC | C14H14N4O
